US09371320B2
B) 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-carboxamide
To a solution of 4-bromothiophene-2-carboxamide (2 g) in DME (20 mL) were added (1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium(II) (0.793 g), potassium acetate (2.86 g) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2-bi-1,3,2-dioxaborolane (4.93 g), and the mixture was stirred overnight at 90° C. under argon atmosphere. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.2 g).

reactant | 4-bromothiophene-2-carboxamide | 2 g | BrC=1C=C(SC1)C(=O)N | C5H4BrNOS
reactant | potassium acetate | 2.86 g | C(C)(=O)[O-].[K+]
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2-bi-1,3,2-dioxaborolane | 4.93 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | water | O | H2O
solvent | DME | 20 mL | COCCOC | C4H10O2
product | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-carboxamide | 1.2 g | CC1(OB(OC1(C)C)C=1C=C(SC1)C(=O)N)C | C11H16BNO3S
